US06498159B1
1-(4-Aminopiperidino)-4-(3-chloro-4-methoxybenzyl)amino-6-cyanophthalazine Dihydrochloride
A mixture of 4.85 g of the resulting 4-(3-chloro-4-methoxybenzyl)amino-6-cyano-1-(4-phthalimidopiperidino)phthalazine, 4 ml hydrazine monohydrate and 40 ml ethanol was heated under reflux for 1 hr. The reaction solution was evaporated, dissolved in ethyl acetate, and 1 N hydrochloric acid was added thereto to adjust the pH thereof to 3, and the insoluble matters were removed by filtration. The aqueous layer in the filtrate was adjusted to pH 11 with 1 N sodium hydroxide, and then extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate, evaporated, and then purified by silica gel column chromatography. The resulting product was suspended in ethanol/water, then 1 N aqueous hydrochloric acid was added thereto and dissolved by heating. After cooling, the resulting crystals were collected by filtration to give 440 mg of the title compound as a yellow powder.

reactant | 4-(3-chloro-4-methoxybenzyl)amino-6-cyano-1-(4-phthalimidopiperidino)phthalazine | 4.85 g | ClC=1C=C(CNC2=NN=C(C3=CC=C(C=C23)C#N)N2CCC(CC2)N2C(C=3C(C2=O)=CC=CC3)=O)C=CC1OC | C30H25ClN6O3
reactant | hydrazine monohydrate | 4 ml | O.NN
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 1-(4-Aminopiperidino)-4-(3-chloro-4-methoxybenzyl)amino-6-cyanophthalazine Dihydrochloride | 440 mg | Cl.Cl.NC1CCN(CC1)C1=NN=C(C2=CC(=CC=C12)C#N)NCC1=CC(=C(C=C1)OC)Cl | InChI=1S/C22H23ClN6O.2ClH/c1-30-20-5-3-15(11-19(20)23)13-26-21-18-10-14(12-24)2-4-17(18)22(28-27-21)29-8-6-16(25)7-9-29;;/h2-5,10-11,16H,6-9,13,25H2,1H3,(H,26,27);2*1H
